2124-06-16 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2124-6-15**] 08:30 AM
 MULTI LUMEN - START [**2124-6-15**] 02:33 PM
 LUMBAR PUNCTURE - At [**2124-6-15**] 06:30 PM
 MIDLINE - STOP [**2124-6-15**] 10:00 PM
 ARTERIAL LINE - START [**2124-6-16**] 04:56 AM
   .
   -LP: Opening Pressure 27 / CSF c/w ?aseptic meningitis, numerous
   studies/cultures pending
   -talked to ID, changed to treatment dose IV acyclovir
   -midline d/c'd, tip cultured
   -ABG w/ improved oxygenation, acute resp alk, lactate up to 2.2->3.2
   -received 2U plts, 47 -> 87
   -CVP low [**4-23**], given 500cc bolus x5
   -received 1U pRBC overnight HCT 22
   -CvO2 67
   .
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2124-6-15**] 09:00 AM
   Micafungin - [**2124-6-15**] 04:08 PM
   Ciprofloxacin - [**2124-6-15**] 11:30 PM
   Meropenem - [**2124-6-16**] 12:13 AM
   Metronidazole - [**2124-6-16**] 12:13 AM
   Acyclovir - [**2124-6-16**] 06:48 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-6-15**] 09:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-6-16**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.9
C (96.7
   HR: 99 (67 - 105) bpm
   BP: 117/77(94) {117/77(94) - 149/105(123)} mmHg
   RR: 14 (0 - 40) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 1 (1 - 13)mmHg
   Mixed Venous O2% Sat: 67 - 67
                               Total In:
                                                                  5,034 mL
                                                                  1,981 mL
   PO:
                               TF:
   IVF:
                                                                  4,835 mL
                                                                  1,967 mL
   Blood products:
                                                                    199 mL
                                                                     14 mL
   Total out:
                                                                    450 mL
                                                                    400 mL
   Urine:
                                                                    450 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,584 mL
                                                                  1,581 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.49/28/99.[**Numeric Identifier 126**]/19/0
   PaO2 / FiO2: 283
   Physical Examination
   General: Somnolent but responsive to voice, follows commands
   intermittently, not oriented
   HEENT: Sclera icteric, dry MM, oropharynx clear
   Neck: supple, unable to appreciate LN
   Lungs: CTAB, poor effort, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no m/r/g
   Abdomen: soft, NT/ND, bowel sounds present, no rebound or guarding,
   Ext: Warm, +2 pulses, 2+pitting edema in all four extremities, 3+
   pitting in right upper extremity
   Neuro: pupils reactive, EOMI, overall decreased level of consciousness,
   not following commands entirely to obtain further neuro exam. Mild
   ankle clonus
   Labs / Radiology
   66 K/uL
   7.3 g/dL
   182 mg/dL
   0.7 mg/dL
   19 mEq/L
   3.5 mEq/L
   35 mg/dL
   108 mEq/L
   138 mEq/L
   22.2 %
   9.2 K/uL
        [image002.jpg]
                             [**2124-6-15**]  08:41 AM
                             [**2124-6-15**]  08:56 AM
                             [**2124-6-15**]  11:31 AM
                             [**2124-6-15**]  04:23 PM
                             [**2124-6-15**]  07:20 PM
                             [**2124-6-15**]  11:30 PM
                             [**2124-6-16**]  03:24 AM
                             [**2124-6-16**]  04:56 AM
   WBC
   9.2
   Hct
   22.2
   Plt
   87
   66
   Cr
   0.7
   TCO2
   24
   25
   24
   23
   22
   Glucose
   178
   174
   182
   Other labs: PT / PTT / INR:12.8/28.6/1.1, ALT / AST:67/44, Alk Phos / T
   Bili:259/5.0, Lactic Acid:3.2 mmol/L, LDH:433 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   .
   CSF:
   CHEMISTRY
                                   TotProt
                                   Glucose
                                   LD(LDH)
   [1][**2124-6-15**] 07:03PM
                                     69*
                                     101
                                     21
   Source: LP; TUBE#2
   ANALYSIS
                                     WBC
                                     RBC
                                    Polys
                                   Lymphs
                                    Monos
   [2][**2124-6-15**] 07:03PM
                                    21[1]
                                    0[2]
                                      0
                                     99
                                      1
   -Gram stain neg
   -crytococcol neg
   .
   BCx/Ucx/Midline tip cx pending
   .
   CXR: (yesterday had ?LLL infiltrate)
   .
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTHERMIA
   .
   57 y/o M with PMHx of CLL transformed to Diffuse Large B cell lymphoma
   now day 97 s/p allo BMT who was transferred to the ICU with progressive
   MS changes and hypothermia.
   .
   # Hypothermia / MS changes: Multiple possible etiologies in the
   immunocompromised pt s/p BMT,  concern for sepsis given elevated
   lactate, resp alkalosis and new left lower lobe infiltrate.  Pt is high
   risk for aspiration new early ?LLL infiltrate.CNS infection also on
   differential with resp alkalosis and immunocomprimised state.  Pt had
   recent VRE bacteremia and would prefer to remove midline to send for
   culture. MRI shows possible embolic infarcts which raises concern for
   endocarditis as another possible source of sepsis. TSH was low normal.
   CvO2 67% slightly low. Concern for meningitis or other central process
   given resp alkalosis.   Additional concern for med toxicity given hx of
   MS changes with cyclosporine. LP is c/w possible aseptic meningitis,
   etiologies include HSV and other viruses (CMV, HHV, number of others
   sent out) vs malignancy related as 99% lymphs on tap vs drug
   (chemo/immunosup) toxicity. Amonia level normal. Lactate up to 3.[**3-18**]
   be baseline [**12-20**] heme malignancy given adenopathy vs underlying process.
   - prn bolus IVF for CVP 10-12
   - continue bairhugger
   - continue treatment dose acyclovir IV
   - f/u BMT/heme to analyze/look at WBC under scope to ensure not
   recurrence of heme malignancy; also touch base to determine whether
   drug toxicity could cause the aseptic picture
   - f/u numerous CSF micro data
   - f/u ID recs: numerous CSF studies (ordered) / RPR; galactomannan,
   B-D-glucan as another survey for invasive fungal infection / no need
   for broader fungal coverage now / can c/s endocrine in future if no
   improvement in hypothermia / concern for sinusitis on prior MR [**First Name (Titles) **]
[**Last Name (Titles) 9154**]ial extension (aspergillous although no invasion seen on MR)
   - serial ABGs for hypercarbia and trend lactate
   - continue Linezolid, Cipro, Meropenem, Micafungin, Acyclovir and
   Atovaquone
   - f/u neuro recs
   - f/u cultures
   - f/u TTE
   - consider chest CT if worsens
   - monitor serial ABGs, trend lactate
   - f/u EBV VL
   - strict aspiration precautions, strictly NPO
   - serial neuro exams
   .
   # Anemia: HCT 22 from 26 this AM. Not likely dilutional (Plts, WBC
   increased). [**Month (only) 51**] be related to blood draws vs bleeding. 2U pRBC given.
   - check [**Hospital1 7**] CBCs
   .
   # CLL/Diffuse large B s/p allo BMT currently day 97 s/p transplant.  Pt
   with complicated post transplant course including GVHD, intermittent
   fevers and MS changes.
   - f/u BMT recs
   - continue PPx with Atovaquone, Acyclovir (d/w ID for IV alternative
   for Atovaquone )
   - holding tacro, etanercept per BMT
   - continue Cellcept and Solumedrol
   .
   # GVHD: Pt with grade 4 GVHD of skin, bowel and liver.  Currently
   strictly NPO for aspiration precautions given MS changes.
   - will hold oral Budesonide for now.
   - continue methylprednisolone 30mg IV BID
   .
   # FEN: NPO with bolus IVF for goal CVP>12
   - replete electrolytes prn
   .
   # Prophylaxis: pneumoboots, PPI
   .
   # Access: right midline double lumen
   - will place right IJ CVL today
   .
   # Code: FULL
   .
   # Communication: Patient and wife [**Name (NI) 502**]
   .
   # Disposition: ICU for now
   .
   ICU Care
   Nutrition: resume TPN
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-6-15**] 02:33 PM
   Arterial Line - [**2124-6-16**] 04:56 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU level of care
   ------ Protected Section ------
   MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points: 57 yo M CLL transformation to diffuse large B
   cell lymphoma, 97 days s/p bmt, GVHD, prior vre bacteremia, transferred
   w/ hypothermia and progressive decline in MS concerning for sepsis,
   drug toxicity.  LP performed yesterday
 aseptic meningitis, with
   elevated protein, 21 wbc with 99% L, and neg gram stain.  Treatment
   dose acyclovir was initiated. He remains hemodynamically stable with
   lactate elevation despite aggressive fluids.  He received prbcs, plts,
   and 2.5 NS.
   Exam notable for Tm 96.7 BP 117/70  HR 99 RR 14 with sat 96% on 2L.
   Somnolent but arousable, remains confused, PERRLA, d b/b BS with scant
   rales, RR, no M, + BS, soft, NT, sig dep edema, nonfocal as able to
   cooperate
   Labs notable for WBC 9.2K, HCT 22   plt 66, inr 1.1  na 138,  Cr 0.7.
   7.49/28/99 (RA)   lactate 3.2,
   LP results reviewed
   bl / urine cx
s ngtd, LP cxs pending
   CXR
stable lll atelectasis with small volumes and sm b/l effusiosn.
   We remain concerned for infectious etiology of pt
s hypothermia,
   altered MS and resp alk. We have discussed potential broad ddx
   including pna, SBE given ? embolic brain lesions, viral or fungal
   process or meningitis, and endocrine etiologies such as myxedema.  His
   LP results are s/o aseptic meningitis w/ lymphocyte predominance.  ?
   [**12-20**] viral or fungal etiology.  Given the lymphocyte predominance,?
   whether these results might suggest CSF involvement of lymphoma. We
   also remain concerned that his MS could be [**12-20**] drug reaction (tacro,
   linezolid). Agree with plan to continue empiric broad coverage with
   antibx (cipro added yest for double PSA coverage given LLL atelectasis
   vs pna), antifungals, continuing empiric rx dose acyclovir pending HSV
   sero from LP.  ID input is appreciated. F/u micro, csf cxs, fungal
   studies and TTE results.  His lactate remains elevated, despite
   hemodynamic stability, stable renal fx and adequate urine outpt w/ no
   other clear signs of hypoperfusion--? infection vs [**12-20**] lymphoma.  We
   continue to hold tacro and etanercept, continuing additional
   immunosuppression and prophylactic regimen per BMT. Follow abgs and
   keep NPO with aspiration precautions monitoring for fatigue or
   inability to protect airway. Remainder of plan as outlined in resident
   note.
   Patient is critically ill
   Total time: 60 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2124-6-16**] 04:29 PM ------
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);

2124-06-17 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -transfused 2 units PRBCs overnight because of Hct drop 26 to 22.
   -TTE: No obvious vegetations seen.
   -Given 500 cc bolus of NS because FeNa=0.8.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2124-6-16**] 02:00 PM
   Micafungin - [**2124-6-16**] 05:00 PM
   Foscarnet - [**2124-6-16**] 09:45 PM
   Linezolid - [**2124-6-16**] 09:49 PM
   Meropenem - [**2124-6-17**] 12:50 AM
   Metronidazole - [**2124-6-17**] 12:50 AM
   Ciprofloxacin - [**2124-6-17**] 12:51 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-6-16**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-6-17**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 107 (97 - 117) bpm
   BP: 130/88(105) {123/82(99) - 156/106(126)} mmHg
   RR: 32 (26 - 40) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 101.5 kg (admission): 98 kg
   Height: 69 Inch
    CVP: 3 (3 - 5)mmHg
   Total In:
                                                                  5,826 mL
                                                                  1,411 mL
   PO:
   TF:
   IVF:
                                                                  5,398 mL
                                                                  1,123 mL
   Blood products:
                                                                    270 mL
   Total out:
                                                                  1,375 mL
                                                                    260 mL
   Urine:
                                                                  1,375 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,451 mL
                                                                  1,151 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.50/24/99.[**Numeric Identifier 126**]/17/-2
   Physical Examination
   General: Somnolent but responsive to voice, follows commands
   intermittently, AO x 2
   HEENT: Sclera icteric, dry MM, oropharynx clear
   Neck: supple, unable to appreciate LN
   Lungs: CTAB, poor effort, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no m/r/g
   Abdomen: soft, NT/ND, bowel sounds present, no rebound or guarding,
   Ext: Warm, +2 pulses, 2+pitting edema in all four extremities, 3+
   pitting in right upper extremity
   Neuro: level of consciousness improved from before, able to commands.
   Labs / Radiology
   61 K/uL
   8.3 g/dL
   224 mg/dL
   0.7 mg/dL
   17 mEq/L
   3.5 mEq/L
   31 mg/dL
   109 mEq/L
   136 mEq/L
   25.4 %
   9.0 K/uL
        [image002.jpg]
   RPR (-)
   CSF Cx NGTD
   Crypto (-)
   BCx NGTD
   CMV viral load (-)
                             [**2124-6-15**]  11:31 AM
                             [**2124-6-15**]  04:23 PM
                             [**2124-6-15**]  07:20 PM
                             [**2124-6-15**]  11:30 PM
                             [**2124-6-16**]  03:24 AM
                             [**2124-6-16**]  04:56 AM
                             [**2124-6-16**]  02:48 PM
                             [**2124-6-16**]  03:25 PM
                             [**2124-6-17**]  03:24 AM
                             [**2124-6-17**]  04:33 AM
   WBC
   9.2
   9.3
   9.0
   Hct
   22.2
   26.0
   25.4
   Plt
   87
   66
   70
   61
   Cr
   0.7
   0.7
   0.7
   TCO2
   25
   24
   23
   22
   21
   19
   Glucose
   182
   185
   224
   Other labs: PT / PTT / INR:13.2/25.4/1.1, ALT / AST:60/39, Alk Phos / T
   Bili:304/5.6, Differential-Neuts:86.1 %, Band:0.0 %, Lymph:8.9 %,
   Mono:4.6 %, Eos:0.4 %, Lactic Acid:3.0 mmol/L, LDH:381 IU/L, Ca++:6.9
   mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 DIARRHEA
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTHERMIA
   57 y/o M with PMHx of CLL transformed to Diffuse Large B cell lymphoma
   now day 99 s/p allo BMT c/b GVHD who was transferred to the ICU with
   progressive MS changes and hypothermia.
   .
   # Hypothermia / MS changes: Multiple possible etiologies in the
   immunocompromised pt s/p BMT,  concern for sepsis given elevated
   lactate and resp alkalosis.  Pt had recent VRE bacteremia and would
   prefer to remove midline to send for culture. MRI shows possible
   embolic infarcts which raises concern for endocarditis as another
   possible source of sepsis. TSH was low normal. Concern for meningitis
   or other central process given persistent resp alkalosis.   Additional
   concern for med toxicity given hx of MS changes with cyclosporine. LP
   is c/w possible aseptic meningitis, etiologies include HSV and other
   viruses (CMV, HHV, number of others sent out) vs malignancy related as
   99% lymphs on tap vs drug (chemo/immunosup) toxicity. Amonia level
   normal. Lactate up to 3.[**3-18**] be baseline [**12-20**] heme malignancy given
   adenopathy vs underlying process.
   - continue foscarnet
   - will try diuresing w/ lasix + albumin as pt is intravascularly
   depleted but edematous
   - f/u BMT:  prelim assessment no new malignancy
   - f/u numerous CSF micro data
   - f/u ID recs: f/u galactomannan, B-D-glucan as another survey for
   invasive fungal infection / no need for broader fungal coverage now /
   can c/s endocrine in future if no improvement in hypothermia
   - serial ABGs for hypercarbia and trend lactate
   - continue Linezolid, Cipro, Meropenem, Micafungin, foscarnet and
   Atovaquone
   - f/u neuro recs
   - f/u cultures
   - consider chest CT if worsens
   - strict aspiration precautions, strictly NPO
   - serial neuro exams
   .
   # Anemia: HCT 22 from 26, now stable 25.4Not likely dilutional (Plts,
   WBC increased). [**Month (only) 51**] be related to blood draws vs bleeding. 2U pRBC
   given.  Possibly hemolysing
   - f/u hemolysis labs
   - check [**Hospital1 7**] CBCs
   .
   # CLL/Diffuse large B s/p allo BMT currently day 97 s/p transplant.  Pt
   with complicated post transplant course including GVHD, intermittent
   fevers and MS changes.
   - f/u BMT recs
   - continue PPx with Atovaquone
   - holding tacro, etanercept per BMT
   - continue Cellcept and Solumedrol
   .
   # GVHD: Pt with grade 4 GVHD of skin, bowel and liver.  Currently
   strictly NPO for aspiration precautions given MS changes.
   - will hold oral Budesonide for now.
   - continue methylprednisolone 30mg IV BID
   ICU Care
   Nutrition:
   TPN without Lipids - [**2124-6-17**] 12:40 AM 41.[**Telephone/Fax (5) 3487**] mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2124-6-15**] 02:33 PM
   Arterial Line - [**2124-6-16**] 04:56 AM
   Prophylaxis:
   DVT: pneumo boots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU level of care
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portion
   of the services provided.  I have reviewed Dr [**Last Name (STitle) 9173**]
s note above and
   agree with his findings and plan of care.  Mr [**Known lastname 9130**]
s mental status
   has significantly improved on treatment for aseptic meningitis with
   fosarnet to cover HHV6.  This has resulted in the patient receiving
   lots of IV fluid and this, along with his hypoalbuminemia has
   contributed to his being significantly anasarcic today.  We will try
   albumin and lasix to reclaim some of this extravascular fluid.  His
   hypothermia has resolved on broad spectrum antibiotics.  He has a
   primary resp alkalosis, likely due to his altered mental status.  This
   should improve as his mentation improves.  Ongoing Rx for his GVHD
   continues (solumedrol, cellcept, etc).  We will continue to Rx and
   monitor him in the MICU for the present time.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2124-6-17**] 03:10 PM ------

2124-06-18 07:51:00 Physician Resident Progress Note
TITLE:
   24 Hour Events:
   -Hct stable 22.6, hapto (-)
   -UCx (-), BCx NGTD, CSFCx NGTD
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2124-6-16**] 02:00 PM
   Micafungin - [**2124-6-17**] 05:10 PM
   Linezolid - [**2124-6-17**] 07:41 PM
   Foscarnet - [**2124-6-17**] 09:57 PM
   Metronidazole - [**2124-6-17**] 10:27 PM
   Ciprofloxacin - [**2124-6-17**] 11:19 PM
   Meropenem - [**2124-6-18**] 12:23 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-6-17**] 08:08 AM
   Furosemide (Lasix) - [**2124-6-17**] 11:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-6-18**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.2
   HR: 106 (98 - 121) bpm
   BP: 137/87(108) {129/84(103) - 150/102(124)} mmHg
   RR: 25 (8 - 39) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 112.8 kg (admission): 98 kg
   Height: 69 Inch
             Total In:
                                                                  5,900 mL
                                                                    698 mL
   PO:
             TF:
   IVF:
                                                                  4,425 mL
                                                                    378 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  4,930 mL
                                                                  1,780 mL
   Urine:
                                                                  4,930 mL
                                                                  1,780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    970 mL
                                                                 -1,082 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, 2L
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General: Somnolent but responsive to voice, follows commands
   intermittently, AO x 2
   HEENT: Sclera icteric, dry MM, oropharynx clear
   Neck: supple, unable to appreciate LN
   Lungs: CTAB, poor effort, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no m/r/g
   Abdomen: soft, NT/ND, bowel sounds present, no rebound or guarding,
   Ext: Warm, +2 pulses, 2+pitting edema in all four extremities, 3+
   pitting in right upper extremity
   Neuro: level of consciousness improved from before, able to commands.
   Labs / Radiology
   67 K/uL
   8.0 g/dL
   140 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.5 mEq/L
   25 mg/dL
   110 mEq/L
   143 mEq/L
   23.7 %
   11.3 K/uL
        [image002.jpg]
                             [**2124-6-15**]  11:30 PM
                             [**2124-6-16**]  03:24 AM
                             [**2124-6-16**]  04:56 AM
                             [**2124-6-16**]  02:48 PM
                             [**2124-6-16**]  03:25 PM
                             [**2124-6-17**]  03:24 AM
                             [**2124-6-17**]  04:33 AM
                             [**2124-6-17**]  01:24 PM
                             [**2124-6-17**]  06:17 PM
                             [**2124-6-18**]  04:34 AM
   WBC
   9.2
   9.3
   9.0
   11.3
   Hct
   22.2
   26.0
   25.4
   22.2
   22.6
   23.7
   Plt
   66
   70
   61
   67
   Cr
   0.7
   0.7
   0.7
   0.7
   TCO2
   23
   22
   21
   19
   Glucose
   182
   185
   224
   140
   Other labs: PT / PTT / INR:12.9/25.6/1.1, ALT / AST:60/39, Alk Phos / T
   Bili:304/5.6, Differential-Neuts:80.2 %, Band:0.0 %, Lymph:13.2 %,
   Mono:5.9 %, Eos:0.2 %, Lactic Acid:3.0 mmol/L, LDH:381 IU/L, Ca++:7.3
   mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   .
   Cx - NGTD
   CSF Viral Cx / numerous viral Ab studies
 pending
   .
   Assessment and Plan
 ANEMIA, OTHER
 DIARRHEA
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTHERMIA
   .
   57 y/o M with PMHx of CLL transformed to Diffuse Large B cell lymphoma
   now day 99 s/p allo BMT c/b GVHD who was transferred to the ICU with
   progressive MS changes and hypothermia.
   .
   # Hypothermia / MS changes: Multiple possible etiologies in the
   immunocompromised pt s/p BMT,  concern for sepsis given elevated
   lactate and resp alkalosis.  Pt had recent VRE bacteremia and would
   prefer to remove midline to send for culture. MRI shows possible
   embolic infarcts which raises concern for endocarditis as another
   possible source of sepsis. TSH was low normal. Concern for meningitis
   or other central process given persistent resp alkalosis.   Additional
   concern for med toxicity given hx of MS changes with cyclosporine. LP
   is c/w possible aseptic meningitis, etiologies include HSV and other
   viruses (CMV, HHV, number of others sent out) vs malignancy related as
   99% lymphs on tap vs drug (chemo/immunosup) toxicity. Amonia level
   normal. Lactate stable at 3.0 may be baseline [**12-20**] heme malignancy given
   adenopathy vs underlying process.
   - continue foscarnet
   - f/u BMT:  prelim assessment no new malignancy
   - f/u numerous CSF micro data
   - f/u ID recs:
         - f/u galactomannan, B-D-glucan as another survey for invasive
   fungal infection / no need for broader fungal coverage now / can c/s
   endocrine in future if no improvement in hypothermia
         - d/c cipro today
         - check C diff, if neg, d/c flagyl
         - talk to BMT about possible re-LP
   - serial ABGs for hypercarbia and trend lactate
   - continue Linezolid, Meropenem, Micafungin, foscarnet and Atovaquone
   (currently held since NPO)
   - f/u neuro recs
   - f/u cultures
   - consider chest CT if worsens
   - strict aspiration precautions, strictly NPO
   - serial neuro exams
   .
   # Intravascular volume depletion: pt is intravascularly depleted but
   edematous. CVP has been low [**4-24**]. on [**6-16**] had diuresis w/ lasix +
   albumin x1.
   - check CVP today, if at baseline, will keep fluid status same (+1L
   mostly from IV meds)
   .
   # Anemia: HCT 22 from 26, now stable 23. Not likely dilutional (Plts,
   WBC increased). [**Month (only) 51**] be related to blood draws vs bleeding. 2U pRBC
   given.  Hemolysis/DIC labs negative.
   - f/u AM labs
   .
   # CLL/Diffuse large B s/p allo BMT currently day 97 s/p transplant.  Pt
   with complicated post transplant course including GVHD, intermittent
   fevers and MS changes.
   - f/u BMT recs
   - continue PPx with Atovaquone (currently held since NPO)
   - holding tacro, etanercept per BMT
   - continue Cellcept and Solumedrol
   .
   # GVHD: Pt with grade 4 GVHD of skin, bowel and liver.  Currently
   strictly NPO for aspiration precautions given MS changes.
   - will hold oral Budesonide for now.
   - continue methylprednisolone 30mg IV BID
   .
   ICU Care
   Nutrition:
   NPO
   TPN without Lipids - [**2124-6-17**] 12:40 AM 41.[**Telephone/Fax (5) 3487**] mL/hour
   Speech/swallow c/s
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2124-6-15**] 02:33 PM
   Arterial Line - [**2124-6-16**] 04:56 AM
 d/c today
   Prophylaxis:
   DVT: pneumo boots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  possible callout to BMT today
   ------ Protected Section ------
   On this day I examined the patient and was present for the key portions
   of the services provided.  I have reviewed the note above by Dr [**Last Name (STitle) 347**]
   and I agree with his findings and plan of care.  Mr [**Known lastname 9130**] continues
   to improve from a mental status point of view and hypothermia has not
   been an issue for more than 48hrs.  We appreciate ID input and will
   follow their suggestions to stop Cipro and to eval for CDiff and if neg
   to d/c flagyl.  We will proceed to LP for flow cytometry.  Overall he
   has precious little evidence of worsening infection and largely needs
   close nursing follow up on his current meds, including foscarnet.
   We will thus contact BMT service and propose transfer back to them
   either today or tomorrow. He
ll need swallow eval before allowing him
   to return to oral feedings.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2124-6-18**] 05:37 PM ------

2124-06-19 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2124-6-18**] 12:57 PM
 STOOL CULTURE - At [**2124-6-18**] 01:18 PM
 LUMBAR PUNCTURE - At [**2124-6-18**] 06:30 PM
   -re-tapped, opening pressure 35, CSF again c/w aseptic meningitis, sent
   for flow cytometry
   -callout to BMT today
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2124-6-16**] 02:00 PM
   Ciprofloxacin - [**2124-6-17**] 11:19 PM
   Micafungin - [**2124-6-18**] 05:03 PM
   Linezolid - [**2124-6-18**] 08:08 PM
   Foscarnet - [**2124-6-18**] 09:26 PM
   Metronidazole - [**2124-6-18**] 11:24 PM
   Meropenem - [**2124-6-19**] 12:10 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-6-18**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-6-19**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 119 (82 - 119) bpm
   BP: 126/84(114) {109/60(76) - 141/115(114)} mmHg
   RR: 30 (20 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 112.8 kg (admission): 98 kg
   Height: 69 Inch
    CVP: 7 (7 - 12)mmHg
   Total In:
                                                                  4,423 mL
                                                                    618 mL
   PO:
   TF:
   IVF:
                                                                  3,420 mL
                                                                    328 mL
   Blood products:
   Total out:
                                                                  5,410 mL
                                                                  1,220 mL
   Urine:
                                                                  5,410 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -987 mL
                                                                   -602 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General: Somnolent but responsive to voice, follows commands
   intermittently
   HEENT: Sclera icteric, dry MM, oropharynx clear
   Neck: supple, unable to appreciate LN
   Lungs: CTAB, poor effort, no wheezes, rales, ronchi
   CV: Tachycardic, Regular rhythm, normal S1 + S2, no m/r/g
   Abdomen: soft, NT/ND, bowel sounds present, no rebound or guarding,
   Ext: Pneumoboots in place, warm, 2+pitting edema in all four
   extremities, 3+ pitting in right upper extremity
   Neuro: level of consciousness improved from before, able to commands.
   Labs / Radiology
   52 K/uL
   8.0 g/dL
   145 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.6 mEq/L
   21 mg/dL
   106 mEq/L
   142 mEq/L
   23.1 %
   9.5 K/uL
        [image002.jpg]
                             [**2124-6-16**]  03:24 AM
                             [**2124-6-16**]  04:56 AM
                             [**2124-6-16**]  02:48 PM
                             [**2124-6-16**]  03:25 PM
                             [**2124-6-17**]  03:24 AM
                             [**2124-6-17**]  04:33 AM
                             [**2124-6-17**]  01:24 PM
                             [**2124-6-17**]  06:17 PM
                             [**2124-6-18**]  04:34 AM
                             [**2124-6-19**]  03:25 AM
   WBC
   9.2
   9.3
   9.0
   11.3
   9.5
   Hct
   22.2
   26.0
   25.4
   22.2
   22.6
   23.7
   23.1
   Plt
   66
   70
   61
   67
   52
   Cr
   0.7
   0.7
   0.7
   0.7
   0.6
   TCO2
   22
   21
   19
   Glucose
   182
   185
   224
   140
   145
   Other labs: PT / PTT / INR:12.3/25.7/1.0, ALT / AST:56/47, Alk Phos / T
   Bili:324/6.5, Differential-Neuts:96.0 %, Band:0.0 %, Lymph:1.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:3.0 mmol/L, LDH:450 IU/L, Ca++:7.0
   mg/dL, Mg++:1.7 mg/dL, PO4:1.9 mg/dL
   .
   C diff
 negative
   .
CSF:       NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
      This is a concentrated smear made by cytospin method, please refer to
         hematology for a quantitative white blood cell count.
   .
   U/l Upper extremity US:
   Assessment and Plan
   .
   57 y/o M with PMHx of CLL transformed to Diffuse Large B cell lymphoma
   now day 99 s/p allo BMT c/b GVHD who was transferred to the ICU with
   progressive MS changes and hypothermia.
   .
   # Hypothermia / MS changes: Multiple possible etiologies in the
   immunocompromised pt s/p BMT,  concern for sepsis given elevated
   lactate and resp alkalosis.  Pt had recent VRE bacteremia and would
   prefer to remove midline to send for culture. MRI shows possible
   embolic infarcts which raises concern for endocarditis as another
   possible source of sepsis. TSH was low normal. Concern for meningitis
   or other central process given persistent resp alkalosis.   Additional
   concern for med toxicity given hx of MS changes with cyclosporine. LP
   is c/w possible aseptic meningitis, etiologies include HSV and other
   viruses (CMV, HHV, number of others sent out) vs malignancy related as
   99% lymphs on tap vs drug (chemo/immunosup) toxicity. Amonia level
   normal. Lactate stable at 3.0 may be baseline [**12-20**] heme malignancy given
   adenopathy vs underlying process.
   - continue foscarnet
   - f/u BMT:  prelim assessment no new malignancy
   - f/u numerous CSF micro data
   - f/u ID recs:
         - f/u galactomannan, B-D-glucan as another survey for invasive
   fungal infection / no need for broader fungal coverage now / can c/s
   endocrine in future if no improvement in hypothermia
         - d/c cipro today
         - check C diff, if neg, d/c flagyl
         - talk to BMT about possible re-LP
   - serial ABGs for hypercarbia and trend lactate
   - continue Linezolid, Meropenem, Micafungin, foscarnet and Atovaquone
   (currently held since NPO)
   - f/u neuro recs
   - f/u cultures
   - consider chest CT if worsens
   - strict aspiration precautions, strictly NPO
   - serial neuro exams
   .
   # Intravascular volume depletion: pt is intravascularly depleted but
   edematous. CVP has been low [**4-24**]. on [**6-16**] had diuresis w/ lasix +
   albumin x1.
   - check CVP today, if at baseline, will keep fluid status same (+1L
   mostly from IV meds)
   .
   # Anemia: HCT 22 from 26, now stable 23.1. Not likely dilutional (Plts,
   WBC increased). [**Month (only) 51**] be related to blood draws vs bleeding. 2U pRBC
   given.  Hemolysis/DIC labs negative.
   - f/u AM labs
   .
   # CLL/Diffuse large B s/p allo BMT currently day 98 s/p transplant.  Pt
   with complicated post transplant course including GVHD, intermittent
   fevers and MS changes.
   - f/u BMT recs
   - continue PPx with Atovaquone (currently held since NPO)
   - holding tacro, etanercept per BMT
   - continue Cellcept and Solumedrol
   .
   # GVHD: Pt with grade 4 GVHD of skin, bowel and liver.  Currently
   strictly NPO for aspiration precautions given MS changes.
   - will hold oral Budesonide for now.
   - continue methylprednisolone 30mg IV BID
   ICU Care
   Nutrition:
   TPN without Lipids - [**2124-6-18**] 05:13 PM 41.[**Telephone/Fax (5) 3487**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-6-15**] 02:33 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: possible callout to [**Hospital1 403**] today

2124-06-19 12:08:00 Physician Attending Progress Note
Chief Complaint: Altered mental status, aseptic meningitis, lymphoma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient interacting with staff; responding to questions appropriately.
   Still falls asleep easily but is arousable.
   Tmax 98. O2 sats excellent on nasal oxygen supplementation.
   Negative fluid balance yesterday.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2124-6-18**] 12:57 PM
 STOOL CULTURE - At [**2124-6-18**] 01:18 PM
 LUMBAR PUNCTURE - At [**2124-6-18**] 06:30 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2124-6-16**] 02:00 PM
   Ciprofloxacin - [**2124-6-17**] 11:19 PM
   Micafungin - [**2124-6-18**] 05:03 PM
   Meropenem - [**2124-6-19**] 07:51 AM
   Metronidazole - [**2124-6-19**] 08:00 AM
   Foscarnet - [**2124-6-19**] 10:00 AM
   Linezolid - [**2124-6-19**] 10:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-6-19**] 07:51 AM
   Other medications:
   solumedrol, meropenem, cellcept, nystatin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-6-19**] 12:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.5
   HR: 114 (82 - 119) bpm
   BP: 126/93(100) {109/60(76) - 141/115(114)} mmHg
   RR: 22 (21 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 109.2 kg (admission): 98 kg
   Height: 69 Inch
   CVP: 7 (7 - 12)mmHg
   Total In:
                                                                  4,423 mL
                                                                  1,983 mL
   PO:
   TF:
   IVF:
                                                                  3,420 mL
                                                                  1,490 mL
   Blood products:
   Total out:
                                                                  5,410 mL
                                                                  2,190 mL
   Urine:
                                                                  5,410 mL
                                                                  2,190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -987 mL
                                                                   -206 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, Paradoxical), (Percussion:
   Resonant : , No(t) Hyperresonant: , No(t) Dullness : ), (Breath Sounds:
   No(t) Clear : , Crackles : Scattered bilaterally, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese
   Extremities: Right: 3+ edema, Left: 3+ edema, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to):  X 3, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   52 K/uL
   145 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.6 mEq/L
   21 mg/dL
   106 mEq/L
   142 mEq/L
   23.1 %
   9.5 K/uL
        [image002.jpg]
                             [**2124-6-16**]  03:24 AM
                             [**2124-6-16**]  04:56 AM
                             [**2124-6-16**]  02:48 PM
                             [**2124-6-16**]  03:25 PM
                             [**2124-6-17**]  03:24 AM
                             [**2124-6-17**]  04:33 AM
                             [**2124-6-17**]  01:24 PM
                             [**2124-6-17**]  06:17 PM
                             [**2124-6-18**]  04:34 AM
                             [**2124-6-19**]  03:25 AM
   WBC
   9.2
   9.3
   9.0
   11.3
   9.5
   Hct
   22.2
   26.0
   25.4
   22.2
   22.6
   23.7
   23.1
   Plt
   66
   70
   61
   67
   52
   Cr
   0.7
   0.7
   0.7
   0.7
   0.6
   TCO2
   22
   21
   19
   Glucose
   182
   185
   224
   140
   145
   Other labs: PT / PTT / INR:12.3/25.7/1.0, ALT / AST:56/47, Alk Phos / T
   Bili:324/6.5, Differential-Neuts:96.0 %, Band:0.0 %, Lymph:1.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:3.0 mmol/L, LDH:450 IU/L, Ca++:7.0
   mg/dL, Mg++:1.7 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 DIARRHEA
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTHERMIA
   ASEPTIC MENINGITIS
   ANEMIA
   Patient's mental status improved over the past 24 hours. No headache or
   neck discomfort. Still lethargic but interacting normally with staff
   and easily arousable. Continues on treatment for possible viral
   meningitis. Hypothermia resolved. Continue slow diuresis.
   Hct stable. No evidence of bleeding. Not yet at transfusion threshold.
   Oxygenation good. Will try off supplemental oxygen.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2124-6-18**] 05:13 PM 41.[**Telephone/Fax (5) 3487**] mL/hour
   Glycemic Control:  Insulin in TPN
   Lines: Central line
 left IJ
   Multi Lumen - [**2124-6-15**] 02:33 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes